US05498366
1.1 4-n-heptylthiobromobenzene
4-Bromothiophenol (15 g, 0.0794 m) was stirred and heated at 80° C. for 18 hours with n-heptylbromide (14.9 g, 0.0833 m) sodium hydroxide (3.3 g, 0.0833 m) and water (15 mls). The mixture was then added to water (50 mls) and extracted with petroleum spirit 400°-60° (3×50 mls). The combined organic phase was dried over magnesium sulphate and evaporated to yield 4-n-heptylthiobromobonzene (19.5 g, 89% GLC, 85% yield).

reactant | 4-Bromothiophenol | 15 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | n-heptylbromide | 14.9 g | C(CCCCCC)Br | C7H15Br
reactant | sodium hydroxide | 3.3 g | [OH-].[Na+]
solvent | water | 50 mls | O | H2O
solvent | water | 15 mls | O | H2O
product | 4-n-heptylthiobromobenzene | 85% yield | C(CCCCCC)SC1=CC=C(C=C1)Br | C13H19BrS
